US05077408
Stage B: 2-phenyloxazolo[5,4-b]pyridine
1.9 g (8 mmol) of 3-benzoylamino-2-chloropyridine, prepared in stage A, are added to the PPSE solution and then brought to reflux for 15 hours. The 1,2-dichlorobenzene is then evaporated off under vacuum. The residue is treated with a water/ice mixture. The pH of the solution is adjusted to 7-8 with 5% sodium bicarbonate solution. The precipitated product is filtered off and then recrystallized in cyclohexane.

reactant | 3-benzoylamino-2-chloropyridine | 8 mmol, 1.9 g | C(C1=CC=CC=C1)(=O)NC=1C(=NC=CC1)Cl | C12H9ClN2O
reactant | PPSE | C[Si](C)(C)OP(=O)=O | C3H9O3PSi
product | 2-phenyloxazolo[5,4-b]pyridine | C1(=CC=CC=C1)C=1OC2=NC=CC=C2N1 | C12H8N2O
